US03957989
2,7-BIS(PIPERIDINOACETYL)XANTHENE DIHYDROCHLORIDE
To a solution of 200 ml. of piperidone in 500 ml. of tetrahydrofuran were added 33.5 g (0.1 mole) of 2,7-bis(2-chloroacetyl)xanthene and 2 g of potassium iodide with warming. The reaction mixture was allowed to stand for 7 days, filtered and the filtrate evaporated to dryness, leaving a residue which was treated with dilute acid and filtered. The filtrate was made alkaline, and the resulting oily product was extracted with methylene chloride. The methylene chloride solution was acidified with ethereal HCl which gave an oily product that was recrystallized from methanol-diethyl ether then vacuum dried to give the desired product. M.P. 260°-262°C.

reactant | piperidone | N1C(CCCC1)=O | C5H9NO
reactant | 2,7-bis(2-chloroacetyl)xanthene | 0.1 mole, 33.5 g | ClCC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CCl)=O | C17H12Cl2O3
reactant | potassium iodide | 2 g | [I-].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,7-BIS(PIPERIDINOACETYL)XANTHENE DIHYDROCHLORIDE | Cl.Cl.N1(CCCCC1)CC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CN1CCCCC1)=O | InChI=1S/C27H32N2O3.2ClH/c30-24(18-28-11-3-1-4-12-28)20-7-9-26-22(15-20)17-23-16-21(8-10-27(23)32-26)25(31)19-29-13-5-2-6-14-29;;/h7-10,15-16H,1-6,11-14,17-19H2;2*1H
